US08426411B2
A mixture of ethyl 4-((N,N-diethylsulfamoyl)methyl)-2-ethylcyclopentanecarboxylate (0.570 g, 1.784 mmol) in NaOH (1 N aqueous, 10 mL, 10 mmol) was stirred at ambient temperature for about 72 h. The mixture was partitioned with DCM (10 mL). The aqueous phase was acidified to about pH=4 by addition of 6 N aqueous HCl. The solution was partitioned with DCM (10 mL). The aqueous phase was washed with DCM (2×10 mL). The organic layers were combined, dried over anhydrous MgSO4, and concd under reduced pressure to give 4-((N,N-diethylsulfamoyl)methyl)-2-ethylcyclopentanecarboxylic acid (0.375 g, 72%) as yellow oil: LC/MS (Table 1, Method b) Rt=1.95 min; MS m/z: 292 (M+H)+.

reactant | ethyl 4-((N,N-diethylsulfamoyl)methyl)-2-ethylcyclopentanecarboxylate | 1.784 mmol, 0.570 g | C(C)N(S(=O)(=O)CC1CC(C(C1)C(=O)OCC)CC)CC | C15H29NO4S
reactant | NaOH | 10 mmol, 1 N, 10 mL | [OH-].[Na+]
product | 4-((N,N-diethylsulfamoyl)methyl)-2-ethylcyclopentanecarboxylic acid | 0.375 g, 72% | C(C)N(S(=O)(=O)CC1CC(C(C1)C(=O)O)CC)CC | C13H25NO4S
